US05728650
B. Preparation of tetraethyl 3-aminooctane-1,1-bisphosphonate
To a stirred solution of tetraethyl 3-nitrooctane-1,1-bisphosphonate (0.70 g, 1.62 mmol) in methanol (4 mL) was added ammonium formate (0.45 g, 6.9 mmol) and 10% palladium on carbon (0.070 g). After 24 hours, more 10% palladium on carbon (0.035 g) and ammonium formate (0.45 g, 6.9 mmol) were added. After stirring for a total of 4 days, the reaction mixture was filtered, rinsing the residue with methanol, and concentrated. The residue was taken up in brine (5 mL) and extracted with dichloromethane (4×15 mL), dried (Na2SO4) and concentrated to give the title compound (0.60 g, 95%) as an oil.

reactant | tetraethyl 3-nitrooctane-1,1-bisphosphonate | 1.62 mmol, 0.70 g | [N+](=O)([O-])C(CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC)CCCCC | C16H35NO8P2
reactant | ammonium formate | 6.9 mmol, 0.45 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 6.9 mmol, 0.45 g | C(=O)[O-].[NH4+]
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium on carbon | 0.070 g | [Pd] | Pd
catalyst | palladium on carbon | 0.035 g | [Pd] | Pd
product | tetraethyl 3-aminooctane-1,1-bisphosphonate | 0.60 g, 95% | NC(CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC)CCCCC | C16H37NO6P2
